2149-01-09 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2149-1-8**]:
   - Staph Aureus grown in culture, TTE ordered, continued on Vanc while
   sensitivites pending
   - Fibrinogen 97, guaiac+ stool, no Hct drop, trending
   - PICC placement deferred due to bacteremia
   - Given Ativan PO x2 o/n for ? withdrawal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2149-1-8**] 08:11 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-1-8**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-9**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 110 (100 - 133) bpm
   BP: 126/77(87) {102/65(76) - 142/112(116)} mmHg
   RR: 20 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  1,892 mL
                                                                    390 mL
   PO:
             TF:
                                                                    155 mL
                                                                    204 mL
   IVF:
                                                                    969 mL
                                                                      5 mL
   Blood products:
                                                                    558 mL
   Total out:
                                                                    780 mL
                                                                    300 mL
   Urine:
                                                                    730 mL
                                                                    300 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Vitals 97 130 120/60 18 96% on RA
   HEENT PEARL, sclera icteric, does not open eyes to voice
   Neck Supple
   Pulm Lungs clear bilaterally decreased L base
   CV Tachycardic regular S1 S2 no m/r/g
   Abd Soft distender +fluid wave with +liver edge nontender
   Extrem Warm 1+ bilateral edema, palpable distal pulses
   Neuro Opens eyes to voice and squeezes hands to command, poor attention
   and falls asleep again quickly, moving all extremities without any
   gross focal deficits. Not cooperative with asterixis testing. Slightly
   tremulous.
   Derm Jaundiced, no peripheral stigmata of endocarditis
   Labs / Radiology
   34 K/uL
   10.9 g/dL
   102 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.7 mEq/L
   7 mg/dL
   101 mEq/L
   133 mEq/L
   31.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2149-1-8**]  06:38 AM
                             [**2149-1-8**]  03:26 PM
                             [**2149-1-9**]  03:48 AM
   WBC
   7.8
   8.8
   Hct
   34.4
   32.0
   31.4
   Plt
   33
   34
   Cr
   0.6
   0.5
   0.6
   Glucose
   67
   121
   102
   Other labs: PT / PTT / INR:30.8/50.0/3.2, ALT / AST:73/304, Alk Phos /
   T Bili:128/9.6, Differential-Neuts:82.0 %, Lymph:9.7 %, Mono:7.6 %,
   Eos:0.2 %, Fibrinogen:97 mg/dL, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5161**] is a 42 year old alcoholic who presents following a fall and
   is transferred to the MICU for altered mental status.
   .
   1. Altered mental status:  Most likely secondary to hepatic
   encephalopathy, exacerbated by bacteremia and benzos.  No localizing
   deficits worrisome for CNS bleed, head CT was negative on admission. No
   evidence for SBP, no meningeal findings.
   - NGT in place, lactulose QID and rifaximin
   - Treating bacteremia empirically
   - Minimizing sedating medications as possible, will switch from
   diazepam to ativan given abnormal liver function
   - Guaiac stools
   - Haldol if needed for agitation
   .
   2. Bacteremia:  Coag positive staph in
 bottles.  Unclear [**Name2 (NI) 5227**]
   uncertain. Given EtoH at risk for an aspiration pna. Clinically limited
   evidence for infection no fever or leukocytosis therefore will hold off
   on broader pna coverage at this time.
   - Will switch from vancomycin to penicillin today
   - daily blood cultures
   - Will get TTE today to rule out endocarditis
   - Unclear source, will discuss regarding IVDU when the patient clears
   .
   3. Tachycardia:  EKG shows sinus tachycardia, most likely secondary to
   infection and alcoholic hepatitis, considering also EtoH withdrawal.
   Think PE is less likely.
   - Will follow, consider further workup if any evidence of respiratory
   distress
   .
   4. Alcoholic hepatitis:  Liver following, no plans for further steroids
   at this time
   - Will continue tube feeds
   - Liver recommendations appreciated
   - Will start ciprofloxacin for SBP prophylaxis
   .
   5. Left sided effusion, ?hemothorax post fall
   Does not appear to be interfering significantly with breathing. Left
   sided less typical for hepatic hydrothorax. Think it is less likely
   this is infected.
   - Will hold on thoracentesis and CT for now
   - Follow Hct q6, transfuse Hct>25
   .
   6. Alcohol abuse:  Monitor per CIWA scale, use minimum of
   benzodiazepines required given AMS.
   - MVT/thiamine
   - Social work consult
   .
   7. Anemia, thrombocytopenia:  Likely secondary to marrow suppression
   from EtoH. Consider also bleeding given ?fall. Low platelets could also
   be due to splenic sequestration.
   - Serial Hct as above, keep T+S active
   - Retic, smear, B12, folate, iron panel
   - Continue to trend
   .
   8. Coagulopathy:  Worsening, likely secondary to liver disease
   - FFP prior to lines
   - Smear, fibrinogen for DIC workup though think this is much less
   likely
   - Continue to trend
   ICU Care
   Nutrition:
   Comments: npo/ngt
   Glycemic Control: Comments: fingersticks qid
   Lines:  PIV x2, will attempt to have IV team to place PICC line
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation aspiration precautions
   Communication:  with roommate [**Doctor First Name 4365**] [**Telephone/Fax (1) 5164**], will have social work
   attempt to get more contacts
   [**Name (NI) 36**] status: presumed Full code
   Disposition: ICU for now, anticipate [**Doctor Last Name 976**] [**Doctor Last Name 2578**] at some point

2149-01-09 11:43:00 Physician Attending Progress Note
Chief Complaint: delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   42 yo with MSSA bacteremia, ETOH hepatitis.  Still receiving valium for
   withdrawl.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2149-1-9**] 07:55 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-1-9**] 07:55 AM
   Other medications:
   vanco
   lactulose
   rifaximin
   ursadiol
   diazepam per ciwa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-9**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 107 (100 - 133) bpm
   BP: 121/72(84) {102/59(73) - 142/101(110)} mmHg
   RR: 20 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  1,892 mL
                                                                    788 mL
   PO:
             TF:
                                                                    155 mL
                                                                    256 mL
   IVF:
                                                                    969 mL
                                                                    262 mL
   Blood products:
                                                                    558 mL
   Total out:
                                                                    780 mL
                                                                  1,380 mL
   Urine:
                                                                    730 mL
                                                                    380 mL
   NG:
                                                                     50 mL
   Stool:
   1,000 mL
   Drains:
   Balance:
                                                                  1,112 mL
                                                                   -592 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 2, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.9 g/dL
   34 K/uL
   102 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.7 mEq/L
   7 mg/dL
   101 mEq/L
   133 mEq/L
   31.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2149-1-8**]  06:38 AM
                             [**2149-1-8**]  03:26 PM
                             [**2149-1-9**]  03:48 AM
   WBC
   7.8
   8.8
   Hct
   34.4
   32.0
   31.4
   Plt
   33
   34
   Cr
   0.6
   0.5
   0.6
   Glucose
   67
   121
   102
   Other labs: PT / PTT / INR:30.8/50.0/3.2, ALT / AST:73/304, Alk Phos /
   T Bili:128/9.6, Differential-Neuts:82.0 %, Lymph:9.7 %, Mono:7.6 %,
   Eos:0.2 %, Fibrinogen:97 mg/dL, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS,
   SEIZURES)/delirium:  Much improved MS today.  Responding to questions
   appropriately
 CIRRHOSIS OF LIVER, ALCOHOLIC/alchoholic hepatitis:  Increasing INR.
   MSSA bacteremia:  getting echo today.  change vanco to nafcillin.
   Unclear source of infection.
   anemia:  guaiac + brown stool, so this is unlikely a source.
   IV team for PIC.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-1-8**] 07:23 AM
   22 Gauge - [**2149-1-8**] 07:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor later if MS continues to improve
   Total time spent: 35 minutes

2149-01-10 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started Nafcillin for MSSA bacteremia
   - Diagnostic paracentesis showed evidence of SBP, started ceftriaxone,
   however no organisms seen in gram stain
   - Will have PICC placed tomorrow, needs [** **] prior, AM INR 4.4, put in
   for 4 untis of [**Last Name (LF) **], [**First Name3 (LF) **] need INR following, goal INR < 2.5
   - Pt received Ativan 1mg X2
   - UOP dropped to 5-10 ml/hr, gave 250cc bolus of D5W
   - Repleted K
 BLOOD CULTURED - At [**2149-1-9**] 10:30 AM
 TRANSTHORACIC ECHO - At [**2149-1-9**] 11:00 AM
 PARACENTESIS - At [**2149-1-9**] 02:00 PM
   Diagnostic ansd sent spec for culture.
 PARACENTESIS - At [**2149-1-9**] 02:34 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2149-1-9**] 08:00 AM
   Ceftriaxone - [**2149-1-9**] 08:15 PM
   Nafcillin - [**2149-1-10**] 04:14 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-1-9**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-10**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 131 (102 - 139) bpm
   BP: 131/69(86) {107/59(73) - 138/90(99)} mmHg
   RR: 16 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
           Total In:
                                                                  1,934 mL
                                                                    626 mL
   PO:
           TF:
                                                                    617 mL
                                                                      3 mL
   IVF:
                                                                    737 mL
                                                                    417 mL
   Blood products:
   126 mL
   Total out:
                                                                  2,985 mL
                                                                    555 mL
   Urine:
                                                                    785 mL
                                                                     55 mL
   NG:
   Stool:
                                                                  2,200 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                 -1,051 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: sedated on ativan, laying in bed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: Tachycardic, no murmurs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Distended and more firm than yesterday, +BS, typanitic
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 2, Moves all extremities.  +asterixis
   Tone: Not assessed
   Labs / Radiology
   46 K/uL
   11.0 g/dL
   86 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.1 mEq/L
   13 mg/dL
   106 mEq/L
   139 mEq/L
   31.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2149-1-8**]  06:38 AM
                             [**2149-1-8**]  03:26 PM
                             [**2149-1-9**]  03:48 AM
                             [**2149-1-10**]  03:25 AM
   WBC
   7.8
   8.8
   9.9
   Hct
   34.4
   32.0
   31.4
   31.6
   Plt
   33
   34
   46
   Cr
   0.6
   0.5
   0.6
   1.2
   Glucose
   67
   121
   102
   86
   Other labs: PT / PTT / INR:40.3/57.9/4.4, ALT / AST:66/208, Alk Phos /
   T Bili:131/10.9, Differential-Neuts:85.1 %, Lymph:9.6 %, Mono:4.9 %,
   Eos:0.3 %, Fibrinogen:97 mg/dL, Albumin:1.7 g/dL, LDH:553 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5161**] is a 42 year old alcoholic who presents following a fall and
   is transferred to the MICU for altered mental status.
   .
   1. Altered mental status:  Most likely secondary to hepatic
   encephalopathy, exacerbated by bacteremia and benzos.  No localizing
   deficits worrisome for CNS bleed, head CT was negative on admission.
   Has SBP from paracentesis yesterday-started on CTX, no meningeal
   findings.
   - Increase CTX to 2 g
   - Administer albumin 1.5 mg/kg today, followed by 1 mg/kg in 2 days on
   [**1-12**]
   - NGT in place, lactulose QID and rifaximin
   - Treating bacteremia empirically with Nafcillin
   - Minimizing sedating medications as possible, will switch from
   diazepam to ativan yesterday given abnormal liver function
   - Guaiac stools
   - Haldol if needed for agitation
   - check bladder pressure, if >25 will do therapeutic paracentesis
   .
   2. Bacteremia:  Coag positive staph in
 bottles.  Unclear [**Name2 (NI) 5227**]
   uncertain. Given EtoH at risk for an aspiration pna. Clinically limited
   evidence for infection no fever or leukocytosis therefore will hold off
   on broader pna coverage at this time. TTE yesterday no evidence of
   vegetation.  Likely bacteremia preceded SBP
   - Trend fevers and observe for other signs of infection.  Consider TEE
   and abdominal imaging if worsens clinically
   - Continue nafcillin
   - daily blood cultures
   - Unclear source, will discuss regarding IVDU when the patient clears
   .
   3. Tachycardia:  EKG shows sinus tachycardia, most likely secondary to
   infection and alcoholic hepatitis, considering also EtoH withdrawal.
   Think PE is less likely. Probable intervascular volume depletion with
   rising Cr.
   - Will follow, consider further workup if any evidence of respiratory
   distress
   - Adminster 2 L IVF
   - Check urine lytes
   .
   4. Alcoholic hepatitis:  Liver following, no plans for further steroids
   at this time
   - Hold tube feeds in setting of high residuals
   - Liver recommendations appreciated
   -.LFTs
   5. Left sided effusion, ?hemothorax post fall
   Does not appear to be interfering significantly with breathing. Left
   sided less typical for hepatic hydrothorax. Think it is less likely
   this is infected.
   - Will hold on thoracentesis and CT for now
   - Follow Hct q6, transfuse Hct>25
   .
   6. Alcohol abuse:  Monitor per CIWA scale, use minimum of
   benzodiazepines required given AMS.
   - MVT/thiamine/folate
   - Social work consult
   .
   7. Anemia, thrombocytopenia:  Likely secondary to marrow suppression
   from EtoH. Consider also bleeding given ?fall. Low platelets could also
   be due to splenic sequestration.
   - Serial Hct as above, keep T+S active
   - Retic, smear, B12, folate, iron panel
   - Continue to trend
   .
   8. Coagulopathy:  Worsening, likely secondary to liver disease
   - [**Name2 (NI) **] prior to lines
   - Smear, fibrinogen for DIC workup though think this is much less
   likely
   - Continue to trend
   - 5 mg PO vitamin K
   FEN: Hold TF and reinitiate slowly, Replete lytes
   Access: PIV, Eval for PICC this AM
   Prophy: PPI, pneumoboots
   Code: Full
   Communication: [**Doctor First Name 4365**] (Roommate [**Telephone/Fax (1) 5164**])
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2149-1-10**] 06:27 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-1-8**] 07:23 AM
   22 Gauge - [**2149-1-8**] 07:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2149-01-10 09:28:00 Physician Attending Progress Note
Chief Complaint: delirium, ETOH withdrawl.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 yo man with ETOH hepatitis.  Found to have SBP yesterday so started
   on CTX.  also had evidence of withdrawl so received ativan.
   24 Hour Events:
 BLOOD CULTURED - At [**2149-1-9**] 10:30 AM
 TRANSTHORACIC ECHO - At [**2149-1-9**] 11:00 AM
 PARACENTESIS - At [**2149-1-9**] 02:00 PM
   Diagnostic ansd sent spec for culture.
 PARACENTESIS - At [**2149-1-9**] 02:34 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2149-1-9**] 08:00 AM
   Ceftriaxone - [**2149-1-9**] 08:15 PM
   Nafcillin - [**2149-1-10**] 04:14 AM
   Infusions:
   Other ICU medications:
   Other medications:
   thiamine
   rifaxamin
   lactulose
   protonix
   ursadiol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-10**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 117 (107 - 139) bpm
   BP: 137/91(99) {107/63(75) - 139/94(106)} mmHg
   RR: 30 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  1,934 mL
                                                                  1,577 mL
   PO:
           TF:
                                                                    617 mL
                                                                     27 mL
   IVF:
                                                                    737 mL
                                                                    442 mL
   Blood products:
   968 mL
   Total out:
                                                                  2,985 mL
                                                                    590 mL
   Urine:
                                                                    785 mL
                                                                     90 mL
   NG:
   Stool:
                                                                  2,200 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                 -1,051 mL
                                                                    987 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: No(t) Bowel sounds present, Distended, firm
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   46 K/uL
   86 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.1 mEq/L
   13 mg/dL
   106 mEq/L
   139 mEq/L
   31.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2149-1-8**]  06:38 AM
                             [**2149-1-8**]  03:26 PM
                             [**2149-1-9**]  03:48 AM
                             [**2149-1-10**]  03:25 AM
   WBC
   7.8
   8.8
   9.9
   Hct
   34.4
   32.0
   31.4
   31.6
   Plt
   33
   34
   46
   Cr
   0.6
   0.5
   0.6
   1.2
   Glucose
   67
   121
   102
   86
   Other labs: PT / PTT / INR:40.3/57.9/4.4, ALT / AST:66/208, Alk Phos /
   T Bili:131/10.9, Differential-Neuts:85.1 %, Lymph:9.6 %, Mono:4.9 %,
   Eos:0.3 %, Fibrinogen:97 mg/dL, Albumin:1.7 g/dL, LDH:553 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   SBP:  will start albumin in addition to CTX
   MSSA bacteremia:  on nafcillin
   ETOH hepatitis/encephalopathy:  on lactulose
   Acute renal failure:  dry vs. HRS  belly is also very distended which
   may be affecting renal perfusion.  check urine lytes, bladder pressure
   ETOH withdrawl:  Still requiring ativan for tremulousness, agitation.
   coagulopathy:  likely due to liver disease, but can give vitamin K in
   case he is deficient
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2149-1-10**] 06:27 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-1-8**] 07:23 AM
   22 Gauge - [**2149-1-8**] 07:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2149-01-11 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2149-1-10**] 06:00 PM
 BLOOD CULTURED - At [**2149-1-11**] 04:38 AM
   -Bladder pressure 18
   -SW attempting to identify family contacts
   -L PICC placed
   -AM lytes showed FENA .56-given fluid challenge, UOP did not increase
   -hypokalemic, hypernatremic, worsening Cr-Repeated urine lytes
   -Hypothermic overnight-started on bare-hugger
   -Started patient on Octreotide and Midodrine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2149-1-9**] 08:00 AM
   Ceftriaxone - [**2149-1-10**] 08:00 PM
   Nafcillin - [**2149-1-11**] 04:03 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-1-10**] 07:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-11**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 114 (99 - 118) bpm
   BP: 111/72(82) {94/62(72) - 142/94(106)} mmHg
   RR: 27 (15 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  5,996 mL
                                                                  1,863 mL
   PO:
   TF:
                                                                    327 mL
                                                                    123 mL
   IVF:
                                                                  3,901 mL
                                                                  1,621 mL
   Blood products:
                                                                  1,509 mL
   Total out:
                                                                  1,278 mL
                                                                    487 mL
   Urine:
                                                                    378 mL
                                                                     87 mL
   NG:
   Stool:
                                                                    900 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                  4,718 mL
                                                                  1,376 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: sedated on ativan, laying in bed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: S1 & S2 fast without murmur
   Respiratory / Chest: Exam obscured by snoring, patient not easily
   arousable
   Abdominal: Distended and firm, +BS, typanitic
   Skin:  Warm, Jaundice
   Neurologic: Asleep, sedate and difficult to arouse, Responds to: Verbal
   stimuli, +asterixis
   Labs / Radiology
   55 K/uL
   9.8 g/dL
   85 mg/dL
   2.4 mg/dL
   25 mEq/L
   3.3 mEq/L
   18 mg/dL
   113 mEq/L
   147 mEq/L
   29.0 %
   8.6 K/uL
        [image002.jpg]
                             [**2149-1-8**]  06:38 AM
                             [**2149-1-8**]  03:26 PM
                             [**2149-1-9**]  03:48 AM
                             [**2149-1-10**]  03:25 AM
                             [**2149-1-10**]  09:38 AM
                             [**2149-1-10**]  10:33 PM
                             [**2149-1-11**]  04:30 AM
   WBC
   7.8
   8.8
   9.9
   8.6
   Hct
   34.4
   32.0
   31.4
   31.6
   28.4
   29.0
   Plt
   33
   34
   46
   55
   Cr
   0.6
   0.5
   0.6
   1.2
   2.1
   2.4
   Glucose
   67
   121
   102
   86
   90
   85
   Other labs: PT / PTT / INR:36.3/63.7/3.9, ALT / AST:46/103, Alk Phos /
   T Bili:89/11.2, Differential-Neuts:85.1 %, Lymph:9.6 %, Mono:4.9 %,
   Eos:0.3 %, Fibrinogen:97 mg/dL, Albumin:2.4 g/dL, LDH:553 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**1-10**]: L PICC in place
   Microbiology: GRAM STAIN (Final [**2149-1-9**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   Mr. [**Known lastname 5161**] is a 42 year old alcoholic who presents following a fall and
   is transferred to the MICU for altered mental status.  He has been
   found to have MSSA bacteremia with hypothermia, persistent tachycardia
   and altered mental status.
   1. Altered mental status:  Most likely secondary to hepatic
   encephalopathy, exacerbated by bacteremia and benzos.  No localizing
   deficits worrisome for CNS bleed, head CT was negative on admission.
   Has SBP from paracentesis-started on CTX,
   - NGT in place, lactulose QID and rifaximin
   - Treating bacteremia with Nafcillin
   - Minimizing sedating medications as possible, will switch from ativan
   to Haldol today
   - Guaiac stools
   2. MSSA Bacteremia:  Coag positive staph in
 bottles with unclear
   source. TTE yesterday no evidence of vegetation.  Likely bacteremia
   preceded SBP.  R Humeral prosthesis found on XR.  Currently
   hypothermic.
   - Trend fevers and observe for other signs of infection.  Consider TEE
   and abdominal imaging if worsens clinically
   - Continue Nafcillin for fortnight course ending [**2149-1-21**]
   - daily blood cultures
   - Unclear source, will discuss regarding IVDU when the patient clears
   #. Acute renal failure:  The patient
s creatinine continues to rise
   with poor urine output.
   - Fluid resuscitation with LR given significant stool losses and poor
   UOP.
   - Consult renal re: CVVH vs. HD as above
   - Continue Midodrine & Octreotide
   #. Hypernatremia: Na currently 147 with hyperchloremia.  Current Free
   Water deficit: 2.1L
   - Consult renal re: CVVH vs. HD as above.
   - D5W bolus today vs. Tube feeds if feeding restored.
   #. Tachycardia:  EKG shows sinus tachycardia, most likely secondary to
   infection and alcoholic hepatitis. Probable intervascular volume
   depletion with rising Cr.
   - Check urine lytes
   #. Alcoholic hepatitis:  Liver following, no plans for further steroids
   at this time
   - Hold tube feeds in setting of high residuals, reinitiate slowly:
   post-pyloric tube
   - Liver recommendations appreciated
   -.LFTs
   5. Left sided effusion, ?hemothorax post fall
   Does not appear to be interfering significantly with breathing. Left
   sided less typical for hepatic hydrothorax. Think it is less likely
   this is infected.
   - Will hold on thoracentesis and CT for now
   - Follow Hct [**Hospital1 7**]
   .
   6. Alcohol abuse:  Monitor per CIWA scale, use minimum of
   benzodiazepines required given AMS.
   - MVT/thiamine/folate
   - Social work consult
   .
   7. Anemia, thrombocytopenia:  Likely secondary to marrow suppression
   from EtoH. Consider also bleeding given ?fall. Low platelets could also
   be due to splenic sequestration.
   - Serial Hct as above, keep T+S active
   - Retic, smear, B12, folate, iron panel
   - Continue to trend
   .
   8. Coagulopathy:  Worsening, likely secondary to liver disease
   - FFP prior to lines
   - Smear, fibrinogen for DIC workup though think this is much less
   likely
   - Continue to trend
   - 5 mg PO vitamin K
   FEN: Hold TF and reinitiate slowly, Replete lytes
   Access: PICC
   Prophy: PPI, pneumoboots
   Code: Full
   Communication: [**Doctor First Name 4365**] (Roommate [**Telephone/Fax (1) 5164**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2149-1-10**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2149-01-12 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Reglan given for GI Motility
   - CTX changed to Cipro (to avoid double beta lactams)
   - Hct drop to 25.9, Hct recheck:
   - Given another L of LR and L of D5W for renal failure, hypernatremia,
   not increasing urine output
   - Given 75g of Albumin today early per renal recs
   - NG Tube removed by patient, Dobhoff replaced.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2149-1-9**] 08:00 AM
   Ceftriaxone - [**2149-1-10**] 08:00 PM
   Ciprofloxacin - [**2149-1-11**] 08:03 PM
   Nafcillin - [**2149-1-12**] 04:05 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2149-1-12**] 03:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-12**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 108 (96 - 115) bpm
   BP: 121/75(84) {92/50(63) - 133/85(116)} mmHg
   RR: 17 (16 - 31) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  4,226 mL
                                                                    369 mL
   PO:
             TF:
                                                                    157 mL
                                                                    105 mL
   IVF:
                                                                  3,339 mL
                                                                    174 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                    673 mL
                                                                    715 mL
   Urine:
                                                                    273 mL
                                                                    115 mL
   NG:
   Stool:
                                                                    400 mL
                                                                    600 mL
   Drains:
   Balance:
                                                                  3,553 mL
                                                                   -346 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: sedated on ativan, laying in bed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: S1 & S2 fast without murmur
   Respiratory / Chest: Exam obscured by snoring, patient not easily
   arousable
   Abdominal: Distended and firm, +BS, typanitic
   Skin:  Warm, Jaundice
   Neurologic: Asleep, sedate and difficult to arouse, Responds to: Verbal
   stimuli, +asterixis
   Labs / Radiology
   59 K/uL
   9.1 g/dL
   81 mg/dL
   3.2 mg/dL
   25 mEq/L
   3.3 mEq/L
   24 mg/dL
   112 mEq/L
   148 mEq/L
   26.9 %
   6.8 K/uL
        [image002.jpg]
                             [**2149-1-8**]  06:38 AM
                             [**2149-1-8**]  03:26 PM
                             [**2149-1-9**]  03:48 AM
                             [**2149-1-10**]  03:25 AM
                             [**2149-1-10**]  09:38 AM
                             [**2149-1-10**]  10:33 PM
                             [**2149-1-11**]  04:30 AM
                             [**2149-1-11**]  03:11 PM
                             [**2149-1-11**]  09:06 PM
                             [**2149-1-12**]  03:12 AM
   WBC
   7.8
   8.8
   9.9
   8.6
   7.6
   6.8
   Hct
   34.4
   32.0
   31.4
   31.6
   28.4
   29.0
   25.3
   27.8
   26.9
   Plt
   33
   34
   46
   55
   56
   59
   Cr
   0.6
   0.5
   0.6
   1.2
   2.1
   2.4
   2.6
   3.2
   Glucose
   67
   121
   102
   86
   90
   85
   72
   81
   Other labs: PT / PTT / INR:48.0/79.7/5.4, CK / CKMB / Troponin-T:132//,
   ALT / AST:41/92, Alk Phos / T Bili:74/13.6, Differential-Neuts:69.0 %,
   Band:1.0 %, Lymph:21.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:97 mg/dL,
   Albumin:2.4 g/dL, LDH:553 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.3
   mg/dL
   Imaging: IMPRESSION:
   1. No hydronephrosis.
   2. Moderate-to-large ascites.
   Microbiology: No new culture data
   BCx, Fluid Cx pending
   Assessment and Plan
   Mr. [**Known lastname 5161**] is a 42 year old alcoholic who presents following a fall and
   is transferred to the MICU for altered mental status.  He has been
   found to have MSSA bacteremia with hypothermia, persistent tachycardia
   and altered mental status.
   1. Altered mental status:  Secondary to hepatic encephalopathy,
   exacerbated by benzos/Haldol.  No localizing deficits worrisome for CNS
   bleed, head CT was negative on admission.
   - NGT in place, lactulose QID and rifaximin
   - Treating bacteremia with Nafcillin
   - Minimizing sedating medications as possible, will switch from ativan
   to Haldol today
   2. MSSA Bacteremia:  Coag positive staph in
 bottles with unclear
   source. TTE yesterday no evidence of vegetation.  Likely bacteremia
   preceded SBP.  R Humeral prosthesis found on XR.  Currently
   hypothermic.
   - Trend fevers and observe for other signs of infection.  Consider TEE
   and abdominal imaging if worsens clinically
   - Continue Nafcillin for fortnight course ending [**2149-1-21**]
   - daily blood cultures
   - Unclear source, will discuss regarding IVDU when the patient clears
   #. Acute renal failure:  The patient
s creatinine continues to rise
   with poor urine output.
   - Hold Fluids, Give volume as Blood/Albumin.
   - Consult renal re: CVVH vs. HD as above
   - Continue Midodrine & Octreotide
   #. Hypernatremia: Na currently 148 with hyperchloremia.  Current Free
   Water deficit: 2.1L
   - Consult renal re: CVVH vs. HD as above.
   - Water Bolus via Tube feeds
   #. SBP: Found to have SBP without organisms on paracentesis
   -          Ciprofloxacin IV treatment dose for 2 week
   -          Hepatology following
   #. Tachycardia:  EKG shows sinus tachycardia, most likely secondary to
   infection and alcoholic hepatitis. Probable intravascular volume
   depletion with rising Cr.
   - Check urine lytes
   #. Alcoholic hepatitis:  Liver following, no plans for further steroids
   at this time
   - Hold tube feeds in setting of high residuals, reinitiate slowly:
   post-pyloric tube
   - Liver recommendations appreciated
   -.LFTs
   5. Left sided effusion, ?hemothorax post fall
   Does not appear to be interfering significantly with breathing. Left
   sided less typical for hepatic hydrothorax. Think it is less likely
   this is infected.
   - Will hold on thoracentesis and CT for now
   - Follow Hct [**Hospital1 7**]
   6. Alcohol abuse:  Monitor per CIWA scale, use minimum of
   benzodiazepines required given AMS.
   - MVT/thiamine/folate
   - Social work consult
   7. Anemia, thrombocytopenia:  Likely secondary to marrow suppression
   from EtoH. Consider also bleeding given ?fall. Low platelets could also
   be due to splenic sequestration.
   - Serial Hct as above, keep T+S active
   - Retic, smear, B12, folate, iron panel
   - Continue to trend
   8. Coagulopathy:  Worsening, likely secondary to liver disease.
   Bleeding from gums today
   - Give FFP today and prior to lines
   - Smear, fibrinogen for DIC workup though think this is much less
   likely
   - Continue to trend
   - 5 mg PO vitamin K
   FEN: Hold TF and reinitiate slowly, Replete lytes
   Access: PICC
   Prophy: PPI, pneumoboots
   Code: Full
   Communication: [**Doctor First Name 4365**] (Roommate [**Telephone/Fax (1) 5164**]), Begin Guardianship workup
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2149-1-11**] 08:36 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2149-1-10**] 06:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2149-01-13 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Doboff placed, not post-pyloric, pulled out.  Placed regular NGT,
   cancelled post-pyloric for AM, given the patient just pulls out all
   NGTs
   - Abdomen more distended, but continues to have BMs
   - Received 2 units FFP for hematuria
   - per Liver recommends giving albumin 50mg [**Hospital1 7**], increasing octreotide
   to 200mg, and midodrine to 7.5mg.
   - Urine lytes per renal
   - Brother in [**Name (NI) 5162**], located, needs Visa, plan to discuss situation
   through an interpreter in the meantime.
   - Increased Haldol to 2.5mg Q4H
   - Hct dropped to 22.8 from 26.9
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2149-1-10**] 08:00 PM
   Ciprofloxacin - [**2149-1-12**] 08:02 PM
   Nafcillin - [**2149-1-13**] 04:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2149-1-13**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-13**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 99 (99 - 117) bpm
   BP: 122/80(90) {95/59(75) - 159/100(105)} mmHg
   RR: 17 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    Bladder pressure: 14 (8 - 14) mmHg
   Total In:
                                                                  3,609 mL
                                                                    787 mL
   PO:
   TF:
                                                                    405 mL
                                                                     98 mL
   IVF:
                                                                    890 mL
                                                                    169 mL
   Blood products:
                                                                  1,374 mL
                                                                    200 mL
   Total out:
                                                                  1,746 mL
                                                                    771 mL
   Urine:
                                                                    546 mL
                                                                    146 mL
   NG:
   Stool:
                                                                  1,200 mL
                                                                    625 mL
   Drains:
   Balance:
                                                                  1,863 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: sedated on ativan, laying in bed, vocalizes need
   for water
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: S1 & S2 fast without murmur
   Respiratory / Chest: Exam obscured by snoring, patient not easily
   arousable
   Abdominal: Distended and firm but unchanged from yesterday, +BS,
   typanitic
   Skin:  Warm, Jaundice
   Neurologic: Asleep, sedate and difficult to arouse, Responds to: Verbal
   stimuli, +asterixis, moves all extremities
   Labs / Radiology
   56 K/uL
   7.8 g/dL
   102 mg/dL
   3.9 mg/dL
   25 mEq/L
   3.3 mEq/L
   29 mg/dL
   109 mEq/L
   148 mEq/L
   22.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2149-1-9**]  03:48 AM
                             [**2149-1-10**]  03:25 AM
                             [**2149-1-10**]  09:38 AM
                             [**2149-1-10**]  10:33 PM
                             [**2149-1-11**]  04:30 AM
                             [**2149-1-11**]  03:11 PM
                             [**2149-1-11**]  09:06 PM
                             [**2149-1-12**]  03:12 AM
                             [**2149-1-12**]  04:37 PM
                             [**2149-1-13**]  04:29 AM
   WBC
   8.8
   9.9
   8.6
   7.6
   6.8
   6.9
   Hct
   31.4
   31.6
   28.4
   29.0
   25.3
   27.8
   26.9
   22.8
   Plt
   34
   46
   55
   56
   59
   56
   Cr
   0.6
   1.2
   2.1
   2.4
   2.6
   3.2
   3.7
   3.9
   Glucose
   102
   86
   90
   85
   72
   81
   103
   102
   Other labs: PT / PTT / INR:40.2/78.3/4.4, CK / CKMB / Troponin-T:132//,
   ALT / AST:30/73, Alk Phos / T Bili:63/14.2, Differential-Neuts:69.0 %,
   Band:1.0 %, Lymph:21.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:97 mg/dL,
   Albumin:3.9 g/dL, LDH:374 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5161**] is a 42 year old alcoholic who presents following a fall and
   is transferred to the MICU for altered mental status.  He has been
   found to have MSSA bacteremia with hypothermia, persistent tachycardia
   and altered mental status.
   1. Altered mental status:  Secondary to hepatic encephalopathy vs. ESLD
   secondary to alcoholic hepatitis, exacerbated by benzos/Haldol.  No
   localizing deficits worrisome for CNS bleed, head CT was negative on
   admission.
   - NGT in place, lactulose QID and rifaximin
   - Treating bacteremia with Nafcillin
   - Change octreotide to SQ
   - Minimizing sedating medications as possible, on Haldol for agitation
   and most recent QTc 453.
   - Will discuss with liver which SBP treatment they prefer and with
   Albumin  of 3.9 the ability to stop the albumin [**Hospital1 7**], given the salt
   load in presence of hypernatremia
   2. MSSA Bacteremia:  Coag positive staph in
 bottles with unclear
   source. TTE yesterday no evidence of vegetation.  Likely bacteremia
   preceded SBP.  R Humeral prosthesis found on XR.  Currently
   hypothermic.
   - Trend fevers and observe for other signs of infection.  Consider TEE
   and abdominal imaging if worsens clinically
   - Continue Nafcillin for 2 week course ending [**2149-1-21**]
   - daily blood cultures
   - Unclear source, will discuss regarding IVDU when the patient clears
   #. Acute renal failure:  The patient
s creatinine continues to rise
   with poor urine output.
   - Hold Fluids, Give volume as Blood/Albumin.
   - F/u renal re: CVVH vs. HD as above, currently not HD candidate, as no
   endpoint (not transplant candidate)
   - Continue Midodrine & Octreotide
   #. Hypernatremia: Na currently 148 with hyperchloremia.  Current Free
   Water deficit: 2.1L
   - Consult renal re: CVVH vs. HD as above.
   - Water Bolus via Tube feeds
   - 500 cc of D5W at 125/hour
   -PM lytes
   #. SBP: Found to have SBP without organisms on paracentesis
   -          Ciprofloxacin IV treatment dose for 2 week
   -          Hepatology following
   #. Tachycardia:  EKG shows sinus tachycardia, most likely secondary to
   infection and alcoholic hepatitis. Probable intravascular volume
   depletion with rising Cr, mixed with aggitation
   -          Check urine lytes-not pre-renal
   -          Haldol for agitation
   -          EKG while on Haldol
   5. Left sided effusion, ?hemothorax post fall-Stable
   Does not appear to be interfering significantly with breathing. Left
   sided less typical for hepatic hydrothorax. Think it is less likely
   this is infected.
   - Follow Hct [**Hospital1 7**]
   6. Alcohol abuse:  Monitor per CIWA scale, use minimum of
   benzodiazepines required given AMS.
   - MVT/thiamine/folate
   - Social work consult
   7. Anemia, thrombocytopenia:  Likely secondary to marrow suppression
   from EtoH. Consider also bleeding given ?fall. Low platelets could also
   be due to splenic sequestration.
   - Serial Hct as above, keep T+S active
   - Continue to trend
   8. Coagulopathy:  Worsening, likely secondary to liver disease.
   Bleeding from gums today, along with hematuria.  Received Vita K in
   past with no benefit
   - Give FFP today and prior to lines
   - Continue to trend
   FEN: Reinitiate slowly, D5W at 125 cc/hour for total of 500 cc, Replete
   lytes
   Access: PICC double lumen
   Prophy: PPI, pneumoboots
   Code: Full
   Communication: [**Doctor First Name 4365**] (Roommate [**Telephone/Fax (1) 5164**]), Brother in [**Name (NI) 5162**] located
   via social work-currently has VISA issues, but would like to come
 BACTEREMIA
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2149-1-13**] 04:05 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2149-1-10**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2149-01-14 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Spoke with brother in [**Name (NI) 5162**] via [**Doctor First Name 5358**] to get visa, culturally
   would like doctors to make decisions regarding care of patient.
   Patient now DNR/DNI/no dialysis, but will pursue all other areas of
   care-Will involve legal for further advisement
   -Received 500 cc D5w
   -Changed Albumin to 50 QD
   -4 PM HCT stable
   S: Patient groaning, nonintelligible answers
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-1-13**] 08:08 PM
   Nafcillin - [**2149-1-14**] 04:04 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2149-1-13**] 11:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-1-14**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 99 (89 - 105) bpm
   BP: 127/71(85) {107/63(74) - 138/90(100)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  3,118 mL
                                                                  1,423 mL
   PO:
           360 mL
   TF:
                                                                    418 mL
                                                                    223 mL
   IVF:
                                                                  1,340 mL
                                                                    120 mL
   Blood products:
                                                                    200 mL
                                                                    200 mL
   Total out:
                                                                  1,446 mL
                                                                    164 mL
   Urine:
                                                                    421 mL
                                                                    164 mL
   NG:
   Stool:
                                                                  1,025 mL
   Drains:
   Balance:
                                                                  1,672 mL
                                                                  1,259 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: sedated on Haldol, laying in bed, vocalizes need
   for water
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: S1 & S2 fast without murmur
   Respiratory / Chest: Exam obscured by end expiratory grunting
   Abdominal: Distended and firm, +BS, typanitic
   Skin:  Warm, Jaundice
   Neurologic: Asleep, sedate and difficult to arouse, Responds to: Verbal
   stimuli, unable to assess asterixis with mitts in place
   Labs / Radiology
   51 K/uL
   8.0 g/dL
   91 mg/dL
   4.0 mg/dL
   26 mEq/L
   3.1 mEq/L
   34 mg/dL
   109 mEq/L
   144 mEq/L
   23.2 %
   6.4 K/uL
        [image002.jpg]
                             [**2149-1-10**]  09:38 AM
                             [**2149-1-10**]  10:33 PM
                             [**2149-1-11**]  04:30 AM
                             [**2149-1-11**]  03:11 PM
                             [**2149-1-11**]  09:06 PM
                             [**2149-1-12**]  03:12 AM
                             [**2149-1-12**]  04:37 PM
                             [**2149-1-13**]  04:29 AM
                             [**2149-1-13**]  05:26 PM
                             [**2149-1-14**]  04:43 AM
   WBC
   8.6
   7.6
   6.8
   6.9
   6.4
   Hct
   28.4
   29.0
   25.3
   27.8
   26.9
   22.8
   24.7
   23.2
   Plt
   55
   56
   59
   56
   51
   Cr
   2.1
   2.4
   2.6
   3.2
   3.7
   3.9
   4.0
   4.0
   Glucose
   90
   85
   72
   81
   103
   102
   116
   91
   Other labs: PT / PTT / INR:47.8/91.2/5.4, CK / CKMB / Troponin-T:132//,
   ALT / AST:28/65, Alk Phos / T Bili:58/15.6, Differential-Neuts:69.0 %,
   Band:1.0 %, Lymph:21.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:97 mg/dL,
   Albumin:3.9 g/dL, LDH:374 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.8
   mg/dL
   Imaging: None
   Microbiology: Blood/Urine Cx pending
   Assessment and Plan
   Mr. [**Known lastname 5161**] is a 42 year old alcoholic who presents following a fall and
   is transferred to the MICU for altered mental status.  He has been
   found to have MSSA bacteremia with hypothermia, persistent tachycardia
   and altered mental status.  He remains altered but with increased
   vocalizations.
   1. Altered mental status:  Secondary to hepatic encephalopathy vs. ESLD
   (EtOH Hepatitis), exacerbated by benzos/Haldol.
   - NGT in place, lactulose QID and rifaximin
   - Treating bacteremia with Nafcillin
   - Minimizing sedating medications as possible, on Haldol for agitation
   and most recent QTc 453.
   - Will discuss with liver which SBP treatment they prefer and with
   Albumin  of 3.9 the ability to stop the albumin [**Hospital1 7**], given the salt
   load in presence of hypernatremia
   2. MSSA Bacteremia:  Coag positive staph in
 bottles with unclear
   source. TTE yesterday no evidence of vegetation.  Likely bacteremia
   preceded SBP.  R Humeral prosthesis found on XR.
   - Trend fevers and observe for other signs of infection.
   - Continue Nafcillin for 2 week course ending [**2149-1-21**]
   - daily blood cultures
   #. Acute renal failure:  The patient
s creatinine continues to rise
   with poor urine output.
   - Hold Fluids, Give volume as Blood/Albumin.
   - Not HD candidate, as no endpoint (not transplant candidate)
   - Continue Midodrine & Octreotide
   - Change Octreotide to SQ
   #. Hypernatremia: Resolving with Na currently 144
   - Water Bolus via Tube feeds
   -PM lytes
   #. SBP: Found to have SBP without organisms on paracentesis
   -          Ciprofloxacin IV treatment dose for 2 week
   -          Hepatology following
   #. Tachycardia:  EKG shows sinus tachycardia, most likely secondary to
   infection and alcoholic hepatitis. Probable intravascular volume
   depletion with rising Cr, mixed with aggitation
   -          Check urine lytes-not pre-renal
   -          Haldol for agitation
   -          EKG while on Haldol
   5. Bilateral effusion, ?hemothorax post fall-Stable
   Does not appear to be interfering significantly with breathing. Left
   sided less typical for hepatic hydrothorax. Think it is less likely
   this is infected.
   - Follow Hct [**Hospital1 7**]
   6. Alcohol abuse:  No longer in withdrawal window
   - D/C CIWA
   - Social work consult
   7. Anemia, thrombocytopenia:  Likely secondary to marrow suppression
   from EtoH. Consider also bleeding given ?fall. Low platelets could also
   be due to splenic sequestration.
   - Serial Hct as above, keep T+S active
   - Continue to trend
   8. Coagulopathy:  Worsening, likely secondary to liver disease.
   Bleeding from gums today, along with hematuria.  Received Vita K in
   past with no benefit
   - Give FFP prior to lines
   - Continue to trend
   FEN: Reinitiate slowly, Replete lytes
   Access: PICC double lumen
   Prophy: PPI, pneumoboots
   Code: Full
   Communication: [**Doctor First Name 4365**] (Roommate [**Telephone/Fax (1) 5164**]), Brother in [**Name (NI) 5162**] located
   via social work-currently has VISA issues, but would like to come
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2149-1-13**] 08:13 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2149-1-10**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU